US07517873B2
To a mixture of 0.94 g (0.005 mole) of (rac)-2-methyl-3-(3-methyl-butylamino)-propanoic acid methyl ester, 0.97 g (0.005 mole) of 2,4-dichloro-5-nitro-pyrimidine, 25 mL of ethyl acetate and 12.5 mL of water was added 1.5 g (0.015 mole) of potassium bicarbonate. The mixture was stirred for 3 hours, then diluted with 50 mL of ethyl acetate and 50 mL of water. The layers were separated, and the aqueous layer was extracted with twice with 100 mL of ethyl acetate. The organic layers were washed with 100 mL of brine, combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-ethyl acetate (100:0-97:3) to give 1.06 g of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(3-methyl-butyl)-amino]-2-methyl-propanoic acid ethyl ester (IV-27) as a pale yellow oil.

reactant | (rac)-2-methyl-3-(3-methyl-butylamino)-propanoic acid methyl ester | 0.005 mole, 0.94 g | COC(C(CNCCC(C)C)C)=O | C10H21NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.005 mole, 0.97 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | potassium bicarbonate | 0.015 mole, 1.5 g | C([O-])(O)=O.[K+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | water | 12.5 mL | O | H2O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(3-methyl-butyl)-amino]-2-methyl-propanoic acid ethyl ester | 1.06 g | C(C)OC(C(CN(CCC(C)C)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C15H23ClN4O4
